US04235885
(A) N-[2-[(Acetylthio)methyl]-4-methyl-1-oxopentyl]glycine, 4-nitrophenyl ester
N-[2-[(Acetylthio)methyl]-4-methyl-1-oxopentyl]glycine (0.5 g) is dissolved in 30 ml of ethyl acetate along with p-nitrophenol (0.2 g). This solution is cooled to 5° C., N,N'-dicyclohexylcarbodiimide (0.4 g) is added portionwise and the reaction mixture is stirred at 5° for about 16 hours. The dicyclohexyl urea is filtered off and the filtrate is concentrated thoroughly in vacuo. Isopropyl ether is added to the residue and allowed to sit for about 16 hours. The crystalline solid is filtered to yield 0.4 g of product, melting point 95°-100° C.

reactant | N-[2-[(Acetylthio)methyl]-4-methyl-1-oxopentyl]glycine | 0.5 g | C(C)(=O)SCC(C(=O)NCC(=O)O)CC(C)C | C11H19NO4S
reactant | p-nitrophenol | 0.2 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | N,N'-dicyclohexylcarbodiimide | 0.4 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N-[2-[(Acetylthio)methyl]-4-methyl-1-oxopentyl]glycine, 4-nitrophenyl ester | 0.4 g | C(C)(=O)SCC(C(=O)NCC(=O)OC1=CC=C(C=C1)[N+](=O)[O-])CC(C)C | C17H22N2O6S
